US04515948
A suspension of 1.54 g. of 3',5'-dimethoxy-2-(methylsulfonyl)-4'-(pyrrol-1-yl)-acetophenone in 20 ml. of ethanol and 20 ml. of water was treated with a solution of 0.4 g. of sodium borohydride in 5 ml. of water with addition of 0.1 g. of sodium hydroxide. The mixture was stirred at room temperature for an additional 3 hours, cooled with ice, diluted with 50 ml. of water and filtered under vacuum. After recrystallization from ethanol, there was obtained 3,5-dimethoxy-α-[(methylsulfonyl)-methyl]-4-(pyrrol-1-yl)-benzyl alcohol having a melting point of 192° C.

reactant | 3',5'-dimethoxy-2-(methylsulfonyl)-4'-(pyrrol-1-yl)-acetophenone | COC=1C=C(C=C(C1N1C=CC=C1)OC)C(CS(=O)(=O)C)=O | C15H17NO5S
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3,5-dimethoxy-α-[(methylsulfonyl)-methyl]-4-(pyrrol-1-yl)-benzyl alcohol | COC=1C=C(C(CS(=O)(=O)C)O)C=C(C1N1C=CC=C1)OC | C15H19NO5S
